US08754103B2
To a round bottom flask was added ethyl-5-bromo-2-(trifluoromethoxy)benzoate (0.638 mmole) in ethanol (10 mL). To this solution was added 1 mL of hydrazine monohydrate and the resulting mixture was refluxed overnight. The reaction mixture was evaporated in vacuo to give A. To A was added trimethylorthoformate in a heavy wall pressure tube. This resulting mixture was heated at 100 C for 18 hours. The reaction mixture was concentrated down and purified by preparative TLC to afford B which was coupled with 3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-ylboronic acid using methods disclosed above to give 2-(2-(trifluoromethoxy)-5-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)phenyl)-1,3,4-oxadiazole.

reactant | ethyl-5-bromo-2-(trifluoromethoxy)benzoate | 0.638 mmole | C(C)OC(C1=C(C=CC(=C1)Br)OC(F)(F)F)=O | C10H8BrF3O3
reactant | hydrazine monohydrate | 1 mL | O.NN
reactant | trimethylorthoformate | COC(OC)OC | C4H10O3
reactant | 3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-ylboronic acid | FC(C1=NN=C2N1C=C(C=C2)B(O)O)(F)F | C7H5BF3N3O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(2-(trifluoromethoxy)-5-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)phenyl)-1,3,4-oxadiazole | FC(OC1=C(C=C(C=C1)C=1C=CC=2N(C1)C(=NN2)C(F)(F)F)C=2OC=NN2)(F)F | C16H7F6N5O2
